US09167821B2
2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-ethynylphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-38)
To a solution of 4-acetamidobenzenesulphonyl azide (140 mg) in acetonitrile (10 ml) was added, at room temperature, dimethyl 2-oxopropylphosphonate (97 mg). After stirring for 2 hours, 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzaldehyde (267 mg) in methanol (2 ml) was added to the reaction mixture. After stirring for 8 hours, the reaction mixture was admixed with ethyl acetate and water and extracted with ethyl acetate. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave tert-2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-ethynylphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (50 mg).

reactant | 4-acetamidobenzenesulphonyl azide | 140 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | dimethyl 2-oxopropylphosphonate | 97 mg | O=C(CP(OC)(OC)=O)C | C5H11O4P
reactant | 2-{3-[2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}benzaldehyde | 267 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=O)C=CC=C1)F | C25H23F4N5O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-ethynylphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)C#C)F | C26H23F4N5O2S
